US05866567
(3aR*,10aS*)-9-[4-[3-(4-Fluorobenzyl)ureido]benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one
Using (3aR*,10aS*)-4-(chloroacetyl)-9-[4-[3-(4-fluorobenzyl)ureido]benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one, the title compound was synthesized in otherwise the same manner as Example 30. Yield 35%, m.p. 154°-156° C. (ethanol-diethyl ether).

reactant | (3aR*,10aS*)-4-(chloroacetyl)-9-[4-[3-(4-fluorobenzyl)ureido]benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | ClCC(=O)N1C2=C(N(C([C@@H]3[C@H]1CCC3)=O)CC3=CC=C(C=C3)NC(=O)NCC3=CC=C(C=C3)F)C=CC=C2 | C29H28ClFN4O3
reactant | ethanol diethyl ether | C(C)O.C(C)OCC
product | (3aR*,10aS*)-9-[4-[3-(4-Fluorobenzyl)ureido]benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one | Yield 35% | FC1=CC=C(CNC(NC2=CC=C(CN3C4=C(N([C@H]5[C@@H](C3=O)CCC5)C(CN5C(C=3C(C5=O)=CC=CC3)=O)=O)C=CC=C4)C=C2)=O)C=C1 | C37H32FN5O5
